* C:\users\juani\Escritorio\TC2\tp_lab\LT\HP.asc
XU1 N005 N008 N001 opamp Aol=100K GBW=10Meg
XU2 N002 0 N003 opamp Aol=100K GBW=10Meg
XU3 N004 0 N006 opamp Aol=100K GBW=10Meg
R1 N001 N005 50k
C1 N003 N002 1n
C2 N006 N004 1n
R2 N006 N005 50k
R3 N002 N001 36.34k
R4 N004 N003 36.34k
R5 N008 0 817.5k
R6 N008 N007 58.76k
R7 N003 N008 50k
V1 N007 0 AC 1
.lib opamp.sub
.ac dec 100 1000 10k
.backanno
.end
