* C:\Users\juani\OneDrive\Desktop\GIT\TC2\tp_semanal_9\punto_1.asc
L1 N001 N008 2
L2 N001 N009 2
C1 N008 0 0.1666
C2 N009 0 0.5
V1 N001 0 AC 1
L3 N003 N002 1
L4 N004 N003 4
C3 N003 0 0.5
C4 N004 0 0.1666
V2 N002 0 AC 1
V3 N005 0 AC 1
C5 N006 N005 0.666
C6 N007 N006 0.08
L5 N006 0 1.25
L6 N007 0 5
.ac dec 100 100m 1
* FOSTER
* CAUER 1
* CAUER 2
.backanno
.end
