* C:\Users\juani\OneDrive\Desktop\GIT\TC2\tp_semanal_6\LT\punto1.asc
L3 0 N001 1
L4 N002 0 1
R1 0 N001 1
R2 N001 N002 2
R3 N002 0 3
V1 N001 0 AC 1 Rser=0.01
.net I(R3) V1
.ac dec 100 0.01 10
K2 L3 L4 1
.backanno
.end
