* C:\users\juani\Escritorio\TC2\tp_semanal_4\LT\tp4.asc
R1 N007 N006 1.25
R2 0 N004 1.25
C1 N003 N007 1
C2 N004 N005 1
V1 N005 0 AC 1
XU1 N004 N006 N006 opamp Aol=100K GBW=10Meg
R3 N008 N003 1
R4 N002 N001 1
R5 N009 N002 1
R6 0 N009 1
C3 N001 N008 1.57
XU2 N001 N003 N002 opamp Aol=100K GBW=10Meg
XU3 N001 N009 N008 opamp Aol=100K GBW=10Meg
R7 N013 N012 1.25
R8 0 N010 1.25
C4 N014 N013 1
C5 N010 N011 1
XU4 N010 N012 N012 opamp Aol=100K GBW=10Meg
V2 N011 0 AC 1
L1 N014 0 1.57
.ac dec 100 0.01 1
.lib opamp.sub
.backanno
.end
