* C:\users\juani\Escritorio\TC2\tp_semanal_5\NOTCH\notch_pb.asc
R2 N005 N001 1
R3 N007 N005 1
R4 N002 N001 1
R5 N004 N003 1k
R6 N002 N004 1k
C1 N005 N001 1
C2 N003 N007 1
XU1 N001 0 N005 opamp Aol=100K GBW=10Meg
XU2 0 N007 N002 opamp Aol=100K GBW=10Meg
XU3 0 N004 N003 opamp Aol=100K GBW=10Meg
V1 N006 0 AC 1
R7 N007 N006 1
C3 N001 N006 0.1111
R8 N012 N011 1
R10 Vout- N008 1
R11 0 N011 1.058
C5 N011 VIN 0.555
XU4 N008 N011 Vout- opamp Aol=100K GBW=10Meg
XU5 N008 N013 N012 opamp Aol=100K GBW=10Meg
R12 N013 VIN 9.009
V2 VIN 0 AC 1
C7 V_LP N009 1
R13 V_LP 0 1
V3 N009 0 AC 1
R1 N013 Vout- 1
C4 N008 N012 1
R9 N013 0 1.125
R14 N011 VIN 18.02
C6 N011 0 0.445
C8 N010 Vout- 1
R15 N010 0 1
.lib opamp.sub
.ac dec 100 0.005 1
* Circuito GIC
* ETAPA PASABAJOS AISLADA
.backanno
.end
