* C:\users\juani\Escritorio\TC2\tp_semanal_4bis\ack.asc
R1 N001 N006 0.7
R2 N005 N001 2.2
R3 N007 N005 1
R4 N002 N001 1
R5 N004 N003 1
R6 N002 N004 1
C1 N005 N001 1
C2 N003 N007 1
XU1 N001 0 N005 opamp Aol=100K GBW=10Meg
XU2 0 N007 N002 opamp Aol=100K GBW=10Meg
XU3 0 N004 N003 opamp Aol=100K GBW=10Meg
V1 N006 0 AC 1
R7 N008 N005 1.83
R8 N012 N008 4.57
R9 N013 N012 1
R10 N009 N008 1
R11 N011 N010 1
R12 N009 N011 1
C3 N012 N008 1.215
C4 N010 N013 1.215
XU4 N008 0 N012 opamp Aol=100K GBW=10Meg
XU5 0 N013 N009 opamp Aol=100K GBW=10Meg
XU6 0 N011 N010 opamp Aol=100K GBW=10Meg
R13 N014 N012 2.7
R14 N018 N014 4.53
R15 N019 N018 1
R16 N015 N014 1
R17 N017 N016 1
R18 N015 N017 1
C5 N018 N014 0.823
C6 N016 N019 0.823
XU7 N014 0 N018 opamp Aol=100K GBW=10Meg
XU8 0 N019 N015 opamp Aol=100K GBW=10Meg
XU9 0 N017 N016 opamp Aol=100K GBW=10Meg
.lib opamp.sub
* .ac dec 100 0.05 0.5
.ac dec 100 0.05 0.5
.backanno
.end
